* C:\Users\akash\Documents\git\YouHaveThePower\spice_sims\HighSideDriver\HighSideDriver.asc
* Generated by LTspice 24.1.9 for Windows.
V1 Vbias 0 -1.8
V2 Vbus 0 60
V3 Vcc 0 8
M1 shunt+ Vgate Vbus Vbus FDC5614P
R1 Vout N001 R=V(load)
R2 Vout shunt+ 0.005
D1 0 Vout MBRS1100
R3 Vgate N002 1k
R4 Vgate Vbus 100k
M2 N002 Ctrl 0 0 BSC042NE7NS3
R5 Ctrl 0 10k
V4 load 0 PULSE(25 50 .001 .001 .001 .01 .02)
V5 Ctrl 0 PULSE(5 0 0 0.002 0.002 .1 .2)
L1 N001 0 0.1
.model D D
.lib C:\Users\akash\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\akash\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 10 0 .0001
.backanno
.end
